US04179452
To the solution of 3α,6α-dihydroxy-5β-cholestan-24-one dimesylate prepared (a) above in dimethylformamide (10 ml) was added lithium chloride (100 mg) and the mixture was refluxed for 30 minutes. After cooling, water was added to the reaction mixture and the mixture was extracted with diethyl ether. The ether layer was washed with water, dried over magnesium sulfate and evaporated to give an oily product, 3-chlorocholest-5-en-24-one.

reactant | 3α,6α-dihydroxy-5β-cholestan-24-one dimesylate | S(C)(=O)(=O)O.S(C)(=O)(=O)O.O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O
reactant | lithium chloride | 100 mg | [Cl-].[Li+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-chlorocholest-5-en-24-one | ClC1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H43ClO
